US04988689
A mixture of 3.8 parts of 3-(2-bromoethyl)-2H-1-benzopyran-2-one, 4.7 parts of 3-(2-furanylmethyl)-N-(hexahydro-1H-azepin-4-yl)-3H-imidazo[4,5-b]pyridin-2-amine, 1.5 parts of sodium carbonate and 45 parts of N,N-dimethylacetamide was stirred for 48 hours at 80° C. After cooling, the reaction mixture was poured into water and the product was extracted with trichloromethane. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol, saturated with ammonia, (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was converted into the ethanedioate salt in ethanol. The salt was filtered off and dried, yielding 1 part (10%) of 3-[2-[4-[[3-(2-furanylmethyl)-3H-imidazo[4,5-b]pyridin-2-yl]-amino]hexahydro-1H-azepin-1-yl]ethyl]-2H-1-benzopyran-2-one ethanedioate(1:2); mp. 179.7° C. (compound 109).

reactant | 3-(2-bromoethyl)-2H-1-benzopyran-2-one | BrCCC=1C(OC2=C(C1)C=CC=C2)=O | C11H9BrO2
reactant | 3-(2-furanylmethyl)-N-(hexahydro-1H-azepin-4-yl)-3H-imidazo[4,5-b]pyridin-2-amine | O1C(=CC=C1)CN1C(=NC=2C1=NC=CC2)NC2CCNCCC2 | C17H21N5O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
product | 3-[2-[4-[[3-(2-furanylmethyl)-3H-imidazo[4,5-b]pyridin-2-yl]-amino]hexahydro-1H-azepin-1-yl]ethyl]-2H-1-benzopyran-2-one ethanedioate | 10% | C(C(=O)O)(=O)O.O1C(=CC=C1)CN1C(=NC=2C1=NC=CC2)NC2CCN(CCC2)CCC=2C(OC1=C(C2)C=CC=C1)=O | InChI=1S/C28H29N5O3.C2H2O4/c34-27-21(18-20-6-1-2-10-25(20)36-27)11-15-32-14-4-7-22(12-16-32)30-28-31-24-9-3-13-29-26(24)33(28)19-23-8-5-17-35-23;3-1(4)2(5)6/h1-3,5-6,8-10,13,17-18,22H,4,7,11-12,14-16,19H2,(H,30,31);(H,3,4)(H,5,6)
